US08048887B2
To the solution of 2-fluoro-3-iodo-4-methylbenzoic acid (450 mg, 1.6 mmol, 1.0 eq) in methanol (5 ml), catalytic amount of conc.HCl (0.1 ml) was added. The resultant solution was heated to reflux at 80° C. for overnight. Methanol was evaporated. To this residue, water was added and the aqueous layer was extracted thrice with ethyl acetate. The combined ethyl acetate extracts were dried over sodium sulphate, filtered and evaporated to afford methyl 2-fluoro-3-iodo-4-methylbenzoate. Yield: 450 mg (95%). 1H NMR (400 MHz, DMSO): δ 2.49 (s, 3H), 3.85 (s, 3H), 7.30-7.32 (d, 1H, J=7.84 Hz), 7.76-7.80 (t, 1H, J=7.82 Hz). LCMS: (ES+) m/z=295 (M+H).

reactant | 2-fluoro-3-iodo-4-methylbenzoic acid | 1.6 mmol, 450 mg, 1.0 eq | FC1=C(C(=O)O)C=CC(=C1I)C | C8H6FIO2
reactant | HCl | 0.1 ml | Cl | ClH
reactant | methanol | 5 ml | CO | CH4O
product | methyl 2-fluoro-3-iodo-4-methylbenzoate | FC1=C(C(=O)OC)C=CC(=C1I)C | C9H8FIO2
